US08877801B2
To a microwave vial, (E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylamide (41 mg, 0.098 mmol) and Bu2SnO (2.433 mg, 9.77 mol) were suspended in DME (3 mL). The vial was charged with TMSN3 (0.013 mL, 0.098 mmol) and the reaction was heated for 60 min at 180° C. under microwave radiation. The reaction mixture was filtered to remove solids and concentrated onto silica gel. The crude material was purified by column chromatography (SiO2, 1-20% DCM/MeOH) to afford (E)-5-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-1H-tetrazole (31 mg, 0.070 mmol, 71.4% yield) as an orange solid. 1H NMR (400 MHz, CD3OD) δ ppm=3.78 (s, 3H) 6.80-6.91 (m, 3H) 6.96-7.07 (m, 3H) 7.19 (d, J=8.59 Hz, 1H) 7.34 (d, J=2.53 Hz, 1H) 7.35-7.52 (m, 3H) 7.58-7.74 (m, 2H).

reactant | (E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylamide | 0.098 mmol, 41 mg | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)N | C24H18FNO3S
reactant | TMSN3 | 0.098 mmol, 0.013 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DME | 3 mL | COCCOC | C4H10O2
product | (E)-5-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-1H-tetrazole | 0.070 mmol, 31 mg, 71.4% yield | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C1=NN=NN1)C=C2 | C24H17FN4O2S
